US04443460
A mixture of 29.9 g of 4-(diphenylmethylene)-piperidine, 36.3 g of 2-[2-(2-chloroethoxy)ethoxy]-acetamide and 18 g of sodium carbonate in 80 ml of xylene is heated for 20 hours at a temperature of from 90°to 110° C. Thereafter, 80 ml of benzene are added thereto. The precipitate obtained is filtered off and the organic phase is extracted with a dilute solution of hydrochloric acid (20 ml of concentrated hydrochloride acid and 80 ml of water). After the addition of 30 ml of a concentrated solution of sodium hydroxide and extraction with benzene, the benzene solution obtained is washed, dried over anhydrous potassium carbonate and the benzene evaporated in vacuo. The 2-[2-[2-[4-(diphenylmethylene)-1-piperidinyl]ethoxy]ethoxy]-acetamide obtained is used as such for the preparation of the corresponding acid (see Example 3.4).

reactant | 4-(diphenylmethylene)-piperidine | 29.9 g | C1(=CC=CC=C1)C(=C1CCNCC1)C1=CC=CC=C1 | C18H19N
reactant | 2-[2-(2-chloroethoxy)ethoxy]-acetamide | 36.3 g | ClCCOCCOCC(=O)N | C6H12ClNO3
reactant | sodium carbonate | 18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[2-[2-[4-(diphenylmethylene)-1-piperidinyl]ethoxy]ethoxy]-acetamide | yield is 77% | C1(=CC=CC=C1)C(=C1CCN(CC1)CCOCCOCC(=O)N)C1=CC=CC=C1 | C24H30N2O3
